US07105507B2
(RS)-N-(4-Oxo-1-phenylcyclohexyl)-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetamide
Prepared from (RS)-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 35) and 4-oxo-1-phenylcyclohexylamine hydrochloride (Description 18) according to the method of Example 1. 1H NMR (400 MHz, CDCl3) δ 7.80 (1H, s), 7.73 (2H, s), 7.35–7.2 (5H, m), 5.80 (1H, br s), 5.75–5.63 (1H, m), 5.13–5.05 (2H, m), 3.56 (1H, dd, J 7, 6 Hz), 2.90–2.80 (2H, m), 2.65–2.55 (1H, m), and 2.52–2.30 (7H, m).

reactant | (RS)-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetic acid | C(C=C)C(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C13H10F6O2
reactant | 4-oxo-1-phenylcyclohexylamine hydrochloride | Cl.O=C1CCC(CC1)(C1=CC=CC=C1)N
product | (RS)-N-(4-Oxo-1-phenylcyclohexyl)-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetamide | O=C1CCC(CC1)(C1=CC=CC=C1)NC(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC=C)=O | C25H23F6NO2
